US07042755B1
Following a general procedure for preparing 21 (Creager et al. (1994) J. Electroanal. Chem., 370: 203–211), a solution of 12-bromododecanoic acid (4.2 g, 15 mmol) in SOCl2 (50 mL) was heated at 50° C. under argon for 1 h. The excess SOCl2 was removed by water pump distillation with benzene (3×50 mL). 4.3 g (95%) of 12-bromododecanoyl chloride was obtained as a colorless oil and used in the subsequent reaction without further purification. In a 50 mL flask anhydrous AlCl3 (2.8 g, 21 mmol) was added to a stirred solution of 12-bromododecanoyl chloride (4.0 g, 13.6 mmol) in dry CH2Cl2 (30 mL) at 0° C. under argon for 20 min. Then the mixture was added dropwise over 10 min to a solution of ferrocene (2.6 g, 14 mmol) in CH2Cl2 (50 nL) at 0° C. The mixture was stirred and allowed to warm to rt. After 2 h water (30 mL) was added slowly into this mixture. Then the phases were separated, and the organic layer was washed with water (3×100 mL) and NaHCO3 (2×50 mL) and over (MgSO4). The solvent was evaporated in vacuo and the residue was purified by column chromatography (silica, petroleum ether/diethyl ether, 10:3) to afford a red oil (4.3 g, 85%). 1H NMR δ 1.28 (s, 16H), 1.64 (m, 2H), 2.63 (m, 2H), 3.29 (m, 2H), 4.19 (s, 5H), 4.48 (A2B2, J=1.5 Hz, 2H), 4.78 (A2B2, J=1.5 Hz, 2H); 13C NMR δ 25.0, 28.5, 29.0, 30.1, 30.9, 33.3, 34.5, 40.5, 70.0, 70.4, 72.9, 89.0, 205.0; FAB-MS obsd 446.0955, calcd exact mass 446.0958 (C12H31BrFeO).

reactant | 12-bromododecanoic acid | 15 mmol, 4.2 g | BrCCCCCCCCCCCC(=O)O | C12H23BrO2
reactant | SOCl2 | 50 mL | O=S(Cl)Cl | Cl2OS
product | 12-bromododecanoyl chloride | 4.3 g, 95% | BrCCCCCCCCCCCC(=O)Cl | C12H22BrClO
